US08835451B2
B. (3-Chlorophenyl)-{5-[4-(1,2,3,6-tetrahydro-pyridin-4-yl)-phenyl]-oxazol-2-yl}-amine
To a solution of 4-{4-[2-(3-chlorophenylamino)-oxazol-5-yl]-phenyl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (2.5 g, 5.5 mmol) in MeOH (1 mL) is added 4M HCl in dioxane (3 mL) and the mixture is stirred at RT for 2 h. It is concentrated and used in the next step as the bis HCl salt: (M+H)+352.1.

reactant | 4-{4-[2-(3-chlorophenylamino)-oxazol-5-yl]-phenyl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 5.5 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=C1)C1=CN=C(O1)NC1=CC(=CC=C1)Cl | C25H26ClN3O3
reactant | HCl | 4M | Cl | ClH
solvent | MeOH | 1 mL | CO | CH4O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (3-Chlorophenyl)-{5-[4-(1,2,3,6-tetrahydro-pyridin-4-yl)-phenyl]-oxazol-2-yl}-amine | ClC=1C=C(C=CC1)NC=1OC(=CN1)C1=CC=C(C=C1)C=1CCNCC1 | C20H18ClN3O
